US06759554B2
The general procedure under argon was followed using copper(I) iodide (10 mg, 0.05 mmol), K3PO4 (425 mg, 2.00 mmol), benzylamine (131 μL, 1.20 mmol), 3-iodotoluene (128 μl, 1.00 mmol), ethylene glycol (111 μL, 2.00 mmol) and 2-propanol (1.0 mL). Column chromatography using a solvent mixture (hexane/ethyl acetate=20/1, Rƒ=0.5) afforded N-(3-tolyl)benzylamine (171 mg, 87% isolated yield) as colorless liquid. The spectral data (1H NMR) matched with the literature references and GC analysis indicated >95% purity. See Spagnolo, P.; Zanirato, P. Tetrahedron Lett. 1987, 28, 961-964.

reactant | K3PO4 | 2.00 mmol, 425 mg | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
reactant | benzylamine | 1.20 mmol, 131 μL | C(C1=CC=CC=C1)N | C7H9N
reactant | 3-iodotoluene | 1.00 mmol, 128 μl | IC=1C=C(C=CC1)C | C7H7I
reactant | ethylene glycol | 2.00 mmol, 111 μL | C(CO)O | C2H6O2
catalyst | copper(I) iodide | 0.05 mmol, 10 mg | [Cu]I
solvent | hexane ethyl acetate | CCCCCC.C(C)(=O)OCC
solvent | 2-propanol | 1.0 mL | CC(C)O | C3H8O
product | N-(3-tolyl)benzylamine | 171 mg, 87% | C1(=CC(=CC=C1)NCC1=CC=CC=C1)C | C14H15N
